2122-08-16 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2122-8-15**] 08:34 PM
 EKG - At [**2122-8-15**] 08:44 PM
 NASAL SWAB - At [**2122-8-15**] 10:00 PM
 INVASIVE VENTILATION - START [**2122-8-16**] 12:00 AM
 SPUTUM CULTURE - At [**2122-8-16**] 01:00 AM
 EKG - At [**2122-8-16**] 02:00 AM
 ARTERIAL LINE - START [**2122-8-16**] 06:26 AM
   -apneic c sats down to 60s. moving sm amt of air b/l, bagged and sats
   came back up, intubated. became hypotensive peri-intubation and started
   sm amt of neo briefly
   -switched from neo to dopa as safer through midline
   -a-line placed
   -sedated c propofol
   -large amts of creamy sputum
   -cxr shows ETT in place and NGT in place. concerning for aspiration pna
   -Gtube is working
   -very labile bp. a little bit of dopamine and his pressure is up in the
   170s, turn it off and sbp is 100 (map of 55).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2122-8-15**] 10:13 PM
   Ciprofloxacin - [**2122-8-15**] 11:06 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Dopamine - 6 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-8-15**] 10:13 PM
   Heparin Sodium (Prophylaxis) - [**2122-8-15**] 10:13 PM
   Furosemide (Lasix) - [**2122-8-15**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-16**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 82 (62 - 97) bpm
   BP: 157/59(88) {93/39(53) - 158/59(88)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 169 Inch
             Total In:
                                                                    328 mL
                                                                  1,329 mL
   PO:
             TF:
   IVF:
                                                                    328 mL
                                                                  1,329 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    845 mL
   Urine:
                                                                    700 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -372 mL
                                                                    484 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/56/85.[**Numeric Identifier 299**]/36/12
   Ve: 10 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Gen: intubated, sedated
   Cv: RRR, pmi not displaced
   Resp: mostly clear, rhonchi in R base
   Abd: soft, nt
   Ext: no edema
   Labs / Radiology
   173 K/uL
   9.6 g/dL
   92 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.0 mEq/L
   28 mg/dL
   93 mEq/L
   135 mEq/L
   30.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2122-8-15**]  09:01 PM
                             [**2122-8-15**]  09:10 PM
                             [**2122-8-16**]  01:24 AM
                             [**2122-8-16**]  02:59 AM
                             [**2122-8-16**]  05:10 AM
                             [**2122-8-16**]  05:19 AM
   WBC
   13.9
   10.1
   Hct
   34.1
   30.7
   Plt
   174
   173
   Cr
   0.7
   0.7
   TropT
   0.02
   TCO2
   46
   43
   40
   40
   Glucose
   99
   92
   Other labs: PT / PTT / INR:13.6/32.6/1.2, CK / CKMB /
   Troponin-T:15//0.02, ALT / AST:[**6-15**], Alk Phos / T Bili:63/0.6,
   Differential-Neuts:74.0 %, Band:11.0 %, Lymph:4.0 %, Mono:11.0 %,
   Eos:0.0 %, Lactic Acid:0.8 mmol/L, LDH:187 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Microbiology: gram stain c 4+GNRs
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])\
   Assessment and Plan:
   80 y/o M with PMHx of CAD, COPD, dysphagia and new onset seizure d/o
   who was transferred from [**Hospital1 25**] for clogged G-tube now found to be in
   respiratory distress and admitted to ICU for possible PNA.
   .
   # Respiratory Failure: Pt with underlying COPD and likely some degree
   of chronic retention with bicarb of 43 and prior ABGs showing CO2 in
   60s.  Bilateral pleural effusions appear chronic with acute worsening
   on right most likely due to CHF given diminished BS. Developed apnea
   yesterday, perhaps in setting of rapidly rising CO2, also with lots of
   secretions c gram stain showing 4+GNRs. Most likely this is aspiration
   pna plus underlying CHF c chronic effusions.  Currently intubated.
   apneic on rsbi this am.
   - trend ABGs
   - wean vent prn. likely pt lives c pCO2 in mid 60s.
   - continue Vanc/Cefepime/Cipro for now given possibility of Asp PNA.
   - f/u am CXR
   - continue Alb/Atrovent nebs & fluticasone
   - f/u blood Cx, send sputum prn
   -attempt gentle diuresis c lasix 40 IV boluses did receive bolus
   peri-intubation in setting of hypotension
   -will have neuro evaluate for ? seizure as etiology of apnea.
   -tolerating PSV this morning, now with reduced sedation.
   -apnea this morning could also have been due to alkalemia.
   -could check NIF later today if more awake
 assess respiratory
   capacity.
   .
   # CAD: Pt reports h/o prior MI followed by cardiology, echo with focal
   WMA, valve disease, LVEF 40% who is currently denying chest pain though
   reports progressive SOB over last 3 days. First set of CE negative and
   EKGs at baseline.  Suspect acute on chronic pleural effusions [**1-5**] heart
   failure.
   - f/u serial EKGs
   - cardiac enzymes reassuring
 negative.
   - continue Simvastatin, holding lisinopril in setting of very labile
   BP.
   - Aspirin 325mg x 1 (unclear why not on ASA at baseline).  Continue ASA
   81, talk to family about why not on aspirin regularly
 h/o GIB?
   - attempt gentle diuresis
   .
   # Hypotension: ? sepsis versus effect of sedation, less likely
   cardiogenic shock as no clear precipitant and less likely volume down
   as looks somewhat fluid overloaded.
   -hold home bp meds. currently on 5 of dopamine.  Wean dopamine as
   tolerated.
   .
   # BPH: Pt with foley in place, holding Tamsulosin for now due to
   decreased BP.
   .
   # Dementia: continue home regimen of Actonel/Ca q week
   .
   # Seizure Disorder: continue Valproic Acid 750mg qam and 1000mg qhs.
   -Discuss with neuro
 apnea related to seizure activity?
   .
   # FEN: NPO for now, no IVF given attempted diuresis
   -replete electrolytes
   -G-tube working now, keep OG for now.
   -Fluid balance 1-2 liters negative today if tolerated.
   -Determine who placed G-tube, discuss with them.
   .
   # Prophylaxis: heparin sc tid, bowel regimen, PPI
   .
   # Access: PIV and Left sided Midline
   .
   # Code: FULL
   .
   # Communication: Patient and son [**Telephone/Fax (1) 8856**]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2122-8-15**] 08:34 PM
   18 Gauge - [**2122-8-15**] 08:34 PM
   Arterial Line - [**2122-8-16**] 06:26 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2122-08-16 10:17:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratoy failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Intubated overnight for worsening mental status/apnea
   Required transient neosynephrine and 1L fluid post-intubation --> then
   subsequently switched to dopamine and still on it --> labile blood
   pressures
   24 Hour Events:
 MIDLINE - START [**2122-8-15**] 08:34 PM
 EKG - At [**2122-8-15**] 08:44 PM
 NASAL SWAB - At [**2122-8-15**] 10:00 PM
 INVASIVE VENTILATION - START [**2122-8-16**] 12:00 AM
 SPUTUM CULTURE - At [**2122-8-16**] 01:00 AM
 EKG - At [**2122-8-16**] 02:00 AM
 ARTERIAL LINE - START [**2122-8-16**] 06:26 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2122-8-15**] 10:13 PM
   Ciprofloxacin - [**2122-8-15**] 11:06 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Dopamine - 6 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-8-15**] 10:13 PM
   Heparin Sodium (Prophylaxis) - [**2122-8-15**] 10:13 PM
   Furosemide (Lasix) - [**2122-8-15**] 10:13 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: G-tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-8-16**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 90 (62 - 101) bpm
   BP: 122/59(71) {63/36(43) - 143/65(86)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SA (Sinus Arrhythmia)
   Height: 169 Inch
             Total In:
                                                                    328 mL
                                                                  1,409 mL
   PO:
             TF:
   IVF:
                                                                    328 mL
                                                                  1,409 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    845 mL
   Urine:
                                                                    700 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -372 mL
                                                                    564 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/56/85.[**Numeric Identifier 299**]/36/12
   Ve: 6.1 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   173 K/uL
   92 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.0 mEq/L
   28 mg/dL
   93 mEq/L
   135 mEq/L
   30.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2122-8-15**]  09:01 PM
                             [**2122-8-15**]  09:10 PM
                             [**2122-8-16**]  01:24 AM
                             [**2122-8-16**]  02:59 AM
                             [**2122-8-16**]  05:10 AM
                             [**2122-8-16**]  05:19 AM
   WBC
   13.9
   10.1
   Hct
   34.1
   30.7
   Plt
   174
   173
   Cr
   0.7
   0.7
   TropT
   0.02
   TCO2
   46
   43
   40
   40
   Glucose
   99
   92
   Other labs: PT / PTT / INR:13.6/32.6/1.2, CK / CKMB /
   Troponin-T:15//0.02, ALT / AST:[**6-15**], Alk Phos / T Bili:63/0.6,
   Differential-Neuts:74.0 %, Band:11.0 %, Lymph:4.0 %, Mono:11.0 %,
   Eos:0.0 %, Lactic Acid:0.8 mmol/L, LDH:187 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR: Bilateral effusions --> RLL infiltrate
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   80 y/o M with PMHx of CAD, COPD, dysphagia and new onset seizure d/o
   who was transferred from [**Hospital1 25**] for clogged [**Hospital 3014**] transferred to ICU
   for respiratory distress, intubated for hypercarbic respiratory failure
   # Respiratory Distress: Will continue to diurese.  Treating RLL
   infiltrate with vanc/cefepime/cipro.  Etiology of apneic episodes
   uncler --> may some component of central apnea.  At least this AM, he
   is alkalemic which may be contributing to ongoing apneic spells.  Will
   try switching him back to PSV this AM and wean sedation.
   #Hypotension: Pressures quite labile --> will try to wean off pressors
   as propofol comes off.
   # RLL pneumonia: antibiotics as above
   # CAD: Cycle cardiac enzymes
   # Aspiration: ? convert G-tube to G-J
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2122-8-15**] 08:34 PM
   18 Gauge - [**2122-8-15**] 08:34 PM
   Arterial Line - [**2122-8-16**] 06:26 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2122-08-17 04:31:00 Physician Resident Progress Note
Chief Complaint: 80 y/o M with PMHx of CAD, COPD, dysphagia and new
   onset seizure d/o who was transferred from [**Hospital1 25**] for clogged G-tube
   now found to be in respiratory distress and admitted to ICU for
   possible PNA.  Intubated after apneic episode of unclear etiology.
   24 Hour Events:
 EKG - At [**2122-8-17**] 03:00 AM
   -apneic c sats down to 60s. moving sm amt of air b/l, bagged and sats
   came back up, intubated. became hypotensive peri-intubation and started
   sm amt of neo briefly
   -switched from neo to dopa as safer through midline
   -aline placed
   -sedated c propofol
   -large amts of creamy sputum
   -cxr shows ETT in place and NGT in place. concerning for aspiration pna
   -Gtube is working
   -very labile bp. a little bit of dopamine and his pressure is up in the
   170s, turn it off and sbp is 100 (map of 55).
   -changed to pressure support in the morning, tolerated well, stable ABG
   7.38/65/87
   -PS reduced to [**4-7**] in early afternoon, ABG afterward 7.36/76/94/45 -
   substantial hypercarbia, but with near-normal pH - likely is near his
   baseline.
   -off Levophed and normotensive, however later in the day was started on
   Dopamine due to decreased BP.
   -Lasix 40 mg given in am, with good urine output.  40 mg given in
   evening.
   -acetezolamide given to waste bicarb, stimulate resp. drive.
   -Neuro recs:
   1. Neurology West Consult Service will follow.
   2. His family need to understand the severity of his symptoms, as
   he will most likely need a trach.
   3. Please check an am Depakote level, before the am dose.
   4. A sleep study as an outpatient
   5. His records from the VA regarding his pulmonary issues and his
   last FEV1 would be useful.
   ---------
   SBT: tired out, copious thick sputum, weak cough, attempt to extbate
   tomorrow.
   -Overnight on [**7-8**], ABG 7.35/70/121
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2122-8-15**] 10:13 PM
   Ciprofloxacin - [**2122-8-16**] 08:38 PM
   Vancomycin - [**2122-8-16**] 10:36 PM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-8-16**] 08:37 PM
   Furosemide (Lasix) - [**2122-8-16**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-17**] 04:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.8
C (96.4
   HR: 74 (71 - 107) bpm
   BP: 104/45(62) {70/30(42) - 183/75(107)} mmHg
   RR: 22 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 169 Inch
             Total In:
                                                                  2,407 mL
                                                                     76 mL
   PO:
             TF:
   IVF:
                                                                  2,147 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,695 mL
                                                                    360 mL
   Urine:
                                                                  2,695 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -288 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 297 (276 - 342) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: No Spon Resp
   PIP: 14 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/67/89.[**Numeric Identifier 299**]/40/10
   Ve: 6.5 L/min
   PaO2 / FiO2: 254
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   165 K/uL
   8.9 g/dL
   87 mg/dL
   0.8 mg/dL
   40 mEq/L
   3.5 mEq/L
   32 mg/dL
   93 mEq/L
   137 mEq/L
   28.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2122-8-16**]  02:59 AM
                             [**2122-8-16**]  05:10 AM
                             [**2122-8-16**]  05:19 AM
                             [**2122-8-16**]  11:33 AM
                             [**2122-8-16**]  02:52 PM
                             [**2122-8-16**]  03:53 PM
                             [**2122-8-16**]  06:20 PM
                             [**2122-8-16**]  10:30 PM
                             [**2122-8-17**]  03:05 AM
                             [**2122-8-17**]  03:28 AM
   WBC
   10.1
   7.1
   Hct
   30.7
   28.9
   Plt
   173
   165
   Cr
   0.7
   0.7
   0.8
   TropT
   0.02
   TCO2
   40
   40
   40
   45
   44
   40
   41
   Glucose
   92
   98
   87
   Other labs: PT / PTT / INR:13.6/32.6/1.2, CK / CKMB /
   Troponin-T:15//0.02, ALT / AST:[**6-15**], Alk Phos / T Bili:63/0.6,
   Differential-Neuts:74.0 %, Band:11.0 %, Lymph:4.0 %, Mono:11.0 %,
   Eos:0.0 %, Lactic Acid:0.5 mmol/L, LDH:187 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Assessment and Plan:
   80 y/o M with PMHx of CAD, COPD, dysphagia and new onset seizure d/o
   who was transferred from [**Hospital1 25**] for clogged G-tube now found to be in
   respiratory distress and admitted to ICU for possible PNA.
   .
   # Respiratory Failure: Pt with underlying COPD and likely some degree
   of chronic retention with bicarb of 43 and prior ABGs showing CO2 in
   60s.  Bilateral pleural effusions appear chronic with acute worsening
   on right most likely due to CHF given diminished BS. Developed apnea
   yesterday, perhaps in setting of rapidly rising CO2, also with lots of
   secretions c gram stain showing 4+GNRs. Most likely this is aspiration
   pna plus underlying CHF c chronic effusions.  Currently intubated.
   apneic on rsbi this am.
   - trend ABGs
   - wean vent prn. likely pt lives c pCO2 in mid 60s.
   - continue Vanc/Cefepime/Cipro for now given possibility of Asp PNA.
   - f/u am CXR
   - continue Alb/Atrovent nebs & fluticasone
   - f/u blood Cx, send sputum prn
   -attempt gentle diuresis c lasix 40 IV boluses did receive bolus
   peri-intubation in setting of hypotension
   -will have neuro evaluate for ? seizure as etiology of apnea.
   -tolerating PSV this morning, now with reduced sedation.
   -apnea this morning could also have been due to alkalemia.
   -could check NIF later today if more awake
 assess respiratory
   capacity.
   .
   # CAD: Pt reports h/o prior MI followed by cardiology, echo with focal
   WMA, valve disease, LVEF 40% who is currently denying chest pain though
   reports progressive SOB over last 3 days. First set of CE negative and
   EKGs at baseline.  Suspect acute on chronic pleural effusions [**1-5**] heart
   failure.
   - f/u serial EKGs
   - cardiac enzymes reassuring
 negative.
   - continue Simvastatin, holding lisinopril in setting of very labile
   BP.
   - Aspirin 325mg x 1 (unclear why not on ASA at baseline).  Continue ASA
   81, talk to family about why not on aspirin regularly
 h/o GIB?
   - attempt gentle diuresis
   .
   # Hypotension: ? sepsis versus effect of sedation, less likely
   cardiogenic shock as no clear precipitant and less likely volume down
   as looks somewhat fluid overloaded.
   -hold home bp meds. currently on 5 of dopamine.  Wean dopamine as
   tolerated.
   .
   # BPH: Pt with foley in place, holding Tamsulosin for now due to
   decreased BP.
   .
   # Dementia: continue home regimen of Actonel/Ca q week
   .
   # Seizure Disorder: continue Valproic Acid 750mg qam and 1000mg qhs.
   -Discuss with neuro
 apnea related to seizure activity?
   .
   # FEN: NPO for now, no IVF given attempted diuresis
   -replete electrolytes
   -G-tube working now, keep OG for now.
   -Fluid balance 1-2 liters negative today if tolerated.
   -Determine who placed G-tube, discuss with them.
   .
   # Prophylaxis: heparin sc tid, bowel regimen, PPI
   .
   # Access: PIV and Left sided Midline
   .
   # Code: FULL
   .
   # Communication: Patient and son [**Telephone/Fax (1) 8856**]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2122-8-15**] 08:34 PM
   18 Gauge - [**2122-8-15**] 08:34 PM
   Arterial Line - [**2122-8-16**] 06:26 AM
   20 Gauge - [**2122-8-16**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2122-08-18 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2122-08-18 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - discontinued trazadone for concern of MS changes
   - baseline LFT's and ammoinia WNL in setting of Valproic acid use
   - contact Dr. [**Last Name (STitle) 8880**] ([**Telephone/Fax (1) 3764**]) who confirmed full code, reported
   no PFT's on record and did not know any reason patient should not be on
   ASA
   - pressors discontinued at 11 am
   - consulted neuro who recommended bypassing the EEG, reporting a past
   CVA may be etiology of swallowing difficulty
   - patient extubated
   - continued episodes of afib with RVR responsive to lopressor 5mg with
   intermittent return to sinus rhythm
   - G-tube clogged this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-8-17**] 08:02 PM
   Ciprofloxacin - [**2122-8-17**] 08:43 PM
   Cefipime - [**2122-8-18**] 12:43 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-8-17**] 09:44 PM
   Famotidine (Pepcid) - [**2122-8-18**] 12:50 AM
   Metoprolol - [**2122-8-18**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-18**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 106 (62 - 122) bpm
   BP: 99/49(65) {84/31(47) - 165/74(93)} mmHg
   RR: 24 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 66.1 kg (admission): 63.7 kg
   Height: 169 Inch
             Total In:
                                                                  1,356 mL
                                                                    168 mL
   PO:
             TF:
   IVF:
                                                                  1,116 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    325 mL
   Urine:
                                                                  1,040 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    316 mL
                                                                   -157 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 267 (267 - 311) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 98%
   ABG: 7.36/67/95.[**Numeric Identifier 253**]/36/8
   Ve: 6.7 L/min
   PaO2 / FiO2: 274
   Physical Examination
   General: NAD, A & O x 2 (not time)
   HEENT: repetitive chewing motions, OP clear, anicteric sclera
   Lungs: CTAB no WRR, symmetric air movement with mild decrease at bases
   Heart: RRR, no MRG
   Abdomen: NTND no R or G, no palpable masses
   Extremities: WWP, no CCE, DP 2+
   Labs / Radiology
   174 K/uL
   9.5 g/dL
   72 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.9 mEq/L
   33 mg/dL
   94 mEq/L
   136 mEq/L
   29.7 %
   4.5 K/uL
        [image002.jpg]
                             [**2122-8-16**]  05:19 AM
                             [**2122-8-16**]  11:33 AM
                             [**2122-8-16**]  02:52 PM
                             [**2122-8-16**]  03:53 PM
                             [**2122-8-16**]  06:20 PM
                             [**2122-8-16**]  10:30 PM
                             [**2122-8-17**]  03:05 AM
                             [**2122-8-17**]  03:28 AM
                             [**2122-8-17**]  12:33 PM
                             [**2122-8-18**]  03:02 AM
   WBC
   7.1
   4.5
   Hct
   28.9
   29.7
   Plt
   165
   174
   Cr
   0.7
   0.8
   0.7
   TCO2
   40
   40
   45
   44
   40
   41
   39
   Glucose
   98
   87
   72
   Other labs: PT / PTT / INR:13.6/32.6/1.2, CK / CKMB /
   Troponin-T:15//0.02, ALT / AST:[**6-14**], Alk Phos / T Bili:57/0.4,
   Differential-Neuts:74.0 %, Band:11.0 %, Lymph:4.0 %, Mono:11.0 %,
   Eos:0.0 %, Lactic Acid:0.5 mmol/L, LDH:147 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Assessment and Plan:
   80 y/o M with PMHx of CAD, COPD, dysphagia and new onset seizure d/o
   who was transferred from [**Hospital1 25**] for clogged G-tube now found to be in
   respiratory distress and admitted to ICU for possible PNA.
   .
   # Respiratory Failure: Pt with underlying COPD and likely some degree
   of chronic retention with bicarb of 43 and prior ABGs showing CO2 in
   60s.  Bilateral pleural effusions appear chronic with acute worsening
   on right most likely due to CHF given diminished BS. Developed apnea
   yesterday, perhaps in setting of rapidly rising CO2, also with lots of
   secretions c gram stain showing 4+GNRs. Most likely this is aspiration
   pna plus underlying CHF c chronic effusions.  Currently intubated.
   apneic on rsbi this am.
   - trend ABGs
   - wean vent prn. likely pt lives c pCO2 in mid 60s.
   - continue Vanc/Cefepime/Cipro for now given possibility of Asp PNA
   narrow as able given culture results.
   - f/u am CXR
   - continue Alb/Atrovent nebs & fluticasone
   - f/u blood Cx, sputum culture
   -neuro following.
   -tolerating PSV yesterday, now with reduced sedation.
   -apnea yesterday could also have been due to alkalemia.
   -consider trazadone as possible cause for somnolence, respiratory
   depression.
   -send LFT
s ammonia, possible drug toxicity.
   -consider extubation later today if tolerated.
   .
   # CAD: Pt reports h/o prior MI followed by cardiology, echo with focal
   WMA, valve disease, LVEF 40% who is currently denying chest pain though
   reports progressive SOB over last 3 days. First set of CE negative and
   EKGs at baseline.  Suspect acute on chronic pleural effusions [**1-5**] heart
   failure.
   - cardiac enzymes reassuring
 negative.
   - continue Simvastatin, holding lisinopril in setting of very labile
   BP.
   - Aspirin 325mg x 1 (unclear why not on ASA at baseline).  Continue ASA
   81, talk to family about why not on aspirin regularly
 h/o GIB?
   - attempted gentle diuresis yesterday
 will likely keep mostly even
   today.
   .
   # Hypotension: ? sepsis versus effect of sedation, less likely
   cardiogenic shock as no clear precipitant and less likely volume down
   as looks somewhat fluid overloaded.
   -hold home bp meds. On Dopamine yesterday, off this morning.  Will
   attempt to keep off pressors today.
   .
   # BPH: Pt with foley in place, holding Tamsulosin for now due to
   decreased BP.
   .
   # Dementia: continue home regimen of Actonel/Ca q week
   .
   # Seizure Disorder: continue Valproic Acid 750mg qam and 1000mg qhs.
   -potentially get spot EEG today
 will discuss with neuro.
   .
   # FEN: NPO for now, no IVF given attempted diuresis
   -replete electrolytes
   -G-tube working now, will hold starting feeds for now, possible
   extubation later today.
   -goal even today
   .
   # Prophylaxis: heparin sc tid, bowel regimen, change PPI to H2 blocker
   .
   # Access: PIV and Left sided Midline
   .
   # Code: FULL
   .
   # Communication: Patient and son [**Telephone/Fax (1) 8856**]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2122-8-15**] 08:34 PM
   18 Gauge - [**2122-8-15**] 08:34 PM
   Arterial Line - [**2122-8-16**] 06:26 AM
   20 Gauge - [**2122-8-16**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: